US04910306
A solution consisting of 145.9 mg (0.615 mmole) of methyl N-trimethylsilyl-3-methylanthranilate, 1 ml of CH3CN, and 80.4 mg (0.326 mmole) of 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine was stirred at room temperature and the reaction monitored by reverse phase HPLC. The reaction was about 30 percent complete after 4 hours. Pyridine, 29.1 μl (0.360 mmole), was added and the solution stirred for 10 min and again analyzed. Complete reaction had occurred. The solution was allowed to stand overnight. The CH3CN was removed under a nitrogen atmosphere and the residue treated with 2 ml of 1.0N HCl and 2 ml of CH2Cl2. The CH2Cl2 phase was transferred to a column containing 50 g of silica gel and chromatographed to obtain 112.5 mg of N-(2-methoxycarbonyl-6-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide (0.300 mmole, 92.0 percent yield) as a white crystalline solid, m.p. 181°-182° C. The solid was dissolved in CHCl3 and the solvent again removed in vacuo affording the product as a light yellow powder, m.p. 192°-194° C.

reactant | methyl N-trimethylsilyl-3-methylanthranilate | 0.615 mmole, 145.9 mg | C[Si](NC=1C(C(=O)OC)=CC=CC1C)(C)C | C12H19NO2Si
reactant | CH3CN | 1 ml | CC#N | C2H3N
reactant | 2-chlorosulfonyl-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine | 0.326 mmole, 80.4 mg | ClS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C7H7ClN4O2S
solvent | Pyridine | N1=CC=CC=C1 | C5H5N
product | N-(2-methoxycarbonyl-6-methylphenyl)-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine-2-sulfonamide | 0.300 mmole, 112.5 mg, 92.0 percent yield | COC(=O)C1=C(C(=CC=C1)C)NS(=O)(=O)C1=NN2C(N=C(C=C2C)C)=N1 | C16H17N5O4S
